Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Initiation of chemotherapy 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ y/o male with history of ATLL, 
acute subtype (diagnosed ___ with leukemic phase ATLL and 
hypercalcemia, with involvement of the liver, spleen, and bone 
marrow, as well as cervical, axillary, mediastinal, hilar, 
retroperitoneal, pelvic, and inguinal lymph nodes by PET, 
complex abnormal karyotype, FISH with deletion of TP53 and gain 
of BCL2) s/p da-EPOCH x 4 cycles and IT MTX x2, and previous HBV 

infection on entecavir who presents for initiation of Cycle 5 of 
da-EPOCH.

Notably, he was recently admitted from ___ for febrile 
neutropenia with an ANC 240 on presentation. His source of 
infection remained unclear throughout hospitalization, and his 
only symptom was mouth pain felt to be consistent with 
mucositis. He was treated with vancomycin/cefepijme x2 days and 
narrowed to augmentin x1d, followed by discontinuation of 
antibiotics. 

 
Past Medical History:
- ATLL
- Previous HBV Infection
 
Social History:
___
Family History:
Denies familial history of leukemia/lymphoma, other 
malignancies, bleeding/thrombotic disorders.
 
Physical Exam:
ADMISSION EXAM:
===============
VS: T 98.4 BP 114/66 HR 106 RR 16 O2 100 RA 
GENERAL: Pleasant, well-appearing man, sitting in bed 
comfortably, in NAD
HEENT: NC/AT, EOMI, PERRL, anicteric sclera, patches of 
hyperpigmentation on tongue, no lesions or ulcerations
CARDIAC: Regular rate and rhythm, no murmurs, rubs, or gallops  
LUNG: CTAB, breathing comfortably on RA, no wheezes/rhonci/rales
ABD: Soft, non-tender, non-distended, active bowel sounds 
EXT: Warm, well perfused, no lower extremity edema, 
hyperpigmentation of nail bed 
SKIN: No significant rashes, hyperpigmentation of palms 
NEURO: Alert, oriented, moving all extremities with purpose, no 
facial asymmetry 

DISCHARGE EXAM:
===============
VS: ___ 0744 Temp: 98.6 PO BP: 128/75 HR: 63 RR: 16 O2 sat:
100% O2 delivery: RA 
GENERAL: Pleasant, well-appearing man, sleeping in bed
peacefully, easily arousable, in NAD
HEENT: NC/AT, EOMI, PERRL, anicteric sclera
CARDIAC: RRR, normal S1/S2, no murmurs, rubs, or gallops  
LUNG: CTAB, breathing comfortably on RA, no wheezes/rhonci/rales
ABD: Soft, non-tender, non-distended, active bowel sounds 
EXT: Warm, well perfused, no lower extremity edema,
hyperpigmentation of nail bed 
SKIN: No significant rashes, hyperpigmentation of palms 
NEURO: Alert, oriented, moving all extremities with purpose, no
facial asymmetry 
 
Pertinent Results:
ADMISSION LABS:
===============
___ 02:50PM   PLT COUNT-242
___ 02:50PM   NEUTS-45.7 ___ MONOS-14.2* EOS-0.2* 
BASOS-0.5 NUC RBCS-1.9* IM ___ AbsNeut-2.92 AbsLymp-2.46 
AbsMono-0.91* AbsEos-0.01* AbsBaso-0.03
___ 02:50PM   WBC-6.4 RBC-2.53* HGB-8.1* HCT-24.8* MCV-98 
MCH-32.0 MCHC-32.7 RDW-20.4* RDWSD-70.8*
___ 02:50PM   CALCIUM-9.2 PHOSPHATE-3.2 MAGNESIUM-1.8
___ 02:50PM   ALT(SGPT)-20 AST(SGOT)-30 LD(LDH)-357* ALK 
PHOS-74 TOT BILI-<0.2
___ 02:50PM   estGFR-Using this
___ 02:50PM   UREA N-7 CREAT-0.9 SODIUM-144 POTASSIUM-4.3 
CHLORIDE-105 TOTAL CO2-26 ANION GAP-13
___ 02:50PM   GLUCOSE-109*

DISCHARGE LABS:
===============
___ 06:30AM BLOOD WBC-3.7* RBC-2.39* Hgb-7.6* Hct-23.1* 
MCV-97 MCH-31.8 MCHC-32.9 RDW-19.3* RDWSD-68.3* Plt ___
___ 06:30AM BLOOD Plt ___

MICROBIOLOGY:
=============
___ 1:05 pm BLOOD CULTURE      ___. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 1:05 pm BLOOD CULTURE      ___. 

                            **FINAL REPORT ___

   Blood Culture, Routine (Final ___:    NO GROWTH. 

___ 2:40 pm URINE      ___, CLEAN CATCH. 

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 

IMAGING:
========
None

 
Brief Hospital Course:
Mr. ___ is a ___ y/o male with history of ATLL s/p 
da-EPOCH x 4 cycles and IT MTX x2, and previous HBV infection on 
entecavir who presented on ___ for initiation of Cycle 5 of 
da-EPOCH, doing well without complications.

ACTIVE ISSUES:
==============
# ATLL, acute subtype
History of ATLL s/p 4 cycles of da-EPOCH, here with planned 
admission for Cycle 5 (___). Received 5 doses of da-EPOCH 
without complications. Blood counts remained stable; nadir 
expected in 2 weeks so no immediate risk for neutropenia. Due to 
start zarxio 480 mcg daily on ___, pharmacy will 
deliver to patient's home.

CHRONIC ISSUES:
================
# Previous HBV Infection 
HBV viral load negative on ___. Continued home entecavir.

# Anemia
Stable and at baseline on admission. Likely from chemotherapy. 
Hgb remained stable and patient had no evidence of active 
bleeding. 

TRANSITIONAL ISSUES:
====================
[] Advised patient to start zarxio 480 mcg daily on ___ when he 
receives from pharmacy (mailing it to his home), at his ___ f/u 
appointment w/ heme/onc, please ensure he has received this 
medication and advise how long to take

#Code: Full, presumed
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Acyclovir 400 mg PO Q8H 
2. Docusate Sodium 100 mg PO BID 
3. Entecavir 0.5 mg PO DAILY 
4. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

5. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
6. Prochlorperazine 10 mg PO Q8H:PRN nausea/vomiting 
7. Senna 8.6 mg PO DAILY 
8. Sulfameth/Trimethoprim SS 1 TAB PO DAILY 
9. Lidocaine Viscous 2% 15 mL PO QID:PRN throat pain 
10. Nystatin Oral Suspension 5 mL PO QID:PRN oral thrush 
11. Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mouth pain 


 
Discharge Medications:
1.  Zarxio (filgrastim-sndz) 480 mcg/0.8 mL injection DAILY 
Starting morning of ___ 
RX *filgrastim-sndz [Zarxio] 480 mcg/0.8 mL 480 mcg SC daily 
Disp #*10 Syringe Refills:*0 
2.  Acyclovir 400 mg PO Q8H  
3.  Docusate Sodium 100 mg PO BID  
4.  Entecavir 0.5 mg PO DAILY  
5.  Lidocaine Viscous 2% 15 mL PO QID:PRN throat pain  
6.  Maalox/Diphenhydramine/Lidocaine 15 mL PO QID:PRN mouth pain 
 
7.  Nystatin Oral Suspension 5 mL PO QID:PRN oral thrush  
8.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
9.  Polyethylene Glycol 17 g PO DAILY:PRN constipation  
10.  Prochlorperazine 10 mg PO Q8H:PRN nausea/vomiting  
11.  Senna 8.6 mg PO DAILY  
12.  Sulfameth/Trimethoprim SS 1 TAB PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary diagnosis:
- Adult T-cell leukemia/lymphoma

Secondary diagnosis:
- Previous HCV infection 
- Anemia 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

Why were you admitted to the hospital? 
- You were admitted to the hospital for initiation of your fifth 
cycle of chemotherapy.

What was done for you in the hospital? 
- You received 5 doses of chemotherapy and were monitored 
closely. You had no side effects and your labs were stable 
during your admission.

What should you do when you go home?
- You should continue taking your medications, as prescribed. 
You should start taking a new medication, zarxio, 24 hours after 
your last dose of chemotherapy (start the morning of ___. This 
medication will help boost your blood cell counts, which may 
drop as a side effect of your chemotherapy. You should continue 
taking this medication until you follow up with your oncologist 
(appointment information below).

It was a pleasure taking care of you, and we wish you well!

Sincerely,
Your ___ Team 
 
Followup Instructions:
___